US07320992B2
Step A—Preparation of 2-(4-tert-butyl-phenyl)-4-nitro-isoindole-1,3-dione
In a 25 mL round bottomed flask, 3-nitrophthalic acid (1 g, 4.7 mmol) was suspended in 1,2-dichlorobenzene (3 mL). To this was added 4-tert-butylaniline (3 mL, 18.8 mmol). The reaction was heated to 150° C., resulting in a blood red solution. The reaction was held at 150° C. for 2.5 h, then poured into a 125 mL Erlenmeyer flask. Precipitation began to occur and 50 mL of Et2O was added to the flask. The suspension was stirred for 15 h and filtered. The filtered cake was washed copiously with Et2O and dried in vacuo at 30° C. for 4 h to afford a white brittle powder. No further purification was performed on this compound. MS (ES+): 325.1(M+H)+. Calc'd for C18H16N2O4-324.33.

reactant | 3-nitrophthalic acid | 4.7 mmol, 1 g | [N+](=O)([O-])C1=C(C(C(=O)O)=CC=C1)C(=O)O | C8H5NO6
reactant | 4-tert-butylaniline | 18.8 mmol, 3 mL | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
solvent | 1,2-dichlorobenzene | 3 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 2-(4-tert-butyl-phenyl)-4-nitro-isoindole-1,3-dione | C(C)(C)(C)C1=CC=C(C=C1)N1C(C2=CC=CC(=C2C1=O)[N+](=O)[O-])=O | C18H16N2O4
